US06403586B1
Preparation of 2-Cyclopentylmethyl-4-ethylcarbamoyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one
In methanol, 2-cyclopentylmethyl-4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and a 70% aqueous solution of ethylamine were processed as in Example 43, whereby the title compound was obtained in a yield of 82.2%.

reactant | 2-cyclopentylmethyl-4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | C1(CCCC1)CN1N=C(C=C(C1=O)C(=O)OCC)C1=CC=C(C=C1)OC | C20H24N2O4
reactant | ethylamine | C(C)N | C2H7N
solvent | methanol | CO | CH4O
product | 2-Cyclopentylmethyl-4-ethylcarbamoyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | yield of 82.2% | C1(CCCC1)CN1N=C(C=C(C1=O)C(NCC)=O)C1=CC=C(C=C1)OC | C20H25N3O3
